US04956462
(1) Synthesis of 7-hydroxy-2,5-bis(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine
In 4 liters of ethanol was suspended 48.94 g of 7-hydroxy-2-hydroxymethyl-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine, and 33 g of sodium borohydride was added little by little thereto and then the mixture was stirred at room temperature for 3 hours and then refluxed for 4 hours. A residue obtained by removing ethanol was dissolved in 2 liters of water, and 500 ml of Amberlite IRC-50 (H+) (trade name) was added thereto and stirred. Subsequently, the mixture was filtered and after removing water from the filtrate, 500 ml of methanol was added to the filtrate and the mixture was stirred. Then, methanol was removed from the mixture to obtain a residue. These procedures were repeated three times. Then, 500 ml of ethanol was added to the residue and the mixture was condensed. Precipitated crystal was collected by filtration, washed with ethanol and dried to obtain 39.35 g of the title compound.

reactant | 7-hydroxy-2-hydroxymethyl-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine | 48.94 g | OC1=CC(=NC=2N1N=C(N2)CO)C(=O)OC | C8H8N4O4
reactant | sodium borohydride | 33 g | [BH4-].[Na+]
solvent | ethanol | 4 liters | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 7-hydroxy-2,5-bis(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine | 39.35 g | OC1=CC(=NC=2N1N=C(N2)CO)CO | C7H8N4O3
